US07094801B2
Ex-33A: 5-(3,5-Dimethyl-isoxazol-4-yl)-2,4-dimethoxy-benzaldehyde was prepared from 5-bromo-2,4-dimethoxybenzaldehyde and 3,5-dimethyl-isoxazole-4-boronic acid in a similar manner as described in Ex-3A, 75% yield. 1H-NMR (CDCl3) δ 10.34 (s, 1H), 7.63 (s, 1H), 6.52 (s, 1H), 4.00 (s, 3H), 3.90 (s, 3H), 2.12 (s, 6H).

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | 3,5-dimethyl-isoxazole-4-boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-2,4-dimethoxy-benzaldehyde | 75% yield | CC1=NOC(=C1C=1C(=CC(=C(C=O)C1)OC)OC)C | C14H15NO4
